US09029536B2
A) 5-Hydroxy-N-methoxy-N-methylpyridine-2-carboxamide
A mixture of 5-hydroxypicolinic acid (5.00 g), N,O-dimethylhydroxylamine hydrochloride (3.86 g), TEA (11.1 mL), WSC (7.58 g) and HOBt (5.34 g) in DMF (100 mL) was stirred at room temperature for 24 h. The mixture was poured into 5% NaHCO3 aqueous solution and extracted with AcOEt (10 times). The organic layer was separated, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (4.13 g).

reactant | 5-hydroxypicolinic acid | 5.00 g | OC=1C=CC(=NC1)C(=O)O | C6H5NO3
reactant | N,O-dimethylhydroxylamine hydrochloride | 3.86 g | Cl.CNOC
reactant | WSC | 7.58 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 5.34 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 5-Hydroxy-N-methoxy-N-methylpyridine-2-carboxamide | 4.13 g | OC=1C=CC(=NC1)C(=O)N(C)OC | C8H10N2O3
